US06262083B1
Nicotinic acid hydrochloride (296 mg, 2.40 mmol) was suspended with 2 ml of methylene chloride and 2 ml of oxalic chloride was added and refluxed with stirring for 3 hours, then concentrated in reduced pressure. Residue was suspended with 10 ml of toluene and sodiumazide (468 mg, 7.2 mmol) was added and refluxed with stirring for 1 night to form 3-pyridylisocyanate. Methyl (1S,8S,12S)-2-aminomethyl-4,4-dimethyl-3,5,11-trioxa-12-benzyloxy-tricyclo[6.4.0.0<2,6>] dodec-9-en-9-carboxylate was added to above obtaind solution, and 2 ml of pyridine was added drop by drop and stirred for 2 hours at room temperature. Ethylacetate was added to reaction mixture and washed with saturated sodium bicarbonate and saturated saline solution. After drying and concentrating with anhydrous magnesium sulfate, residue was purified by using silica gel column chromatography (hexane/ethylacetate=2/1, v/v), and 550 mg of captioned compound was obtained (yield: 90%).

reactant | Nicotinic acid hydrochloride | 2.40 mmol, 296 mg | Cl.C(C1=CN=CC=C1)(=O)O
reactant | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
reactant | oxalic chloride | 2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodiumazide | 7.2 mmol, 468 mg | [N-]=[N+]=[N-].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-pyridylisocyanate | N1=CC(=CC=C1)N=C=O | C6H4N2O
